US09238640B2
To the solution of 2-amino-4,6-diisopropoxy-nicotinic acid methyl ester (1.6 g, 5.97 mmol) in methanol (9.0 mL) and water (1.0 mL), was added lithium hydroxide (750 mg, 17.91 mmol). The reaction mixture was heated to 50° C. for 8 hours. The solvent was removed; the residue was diluted with water and neutralized with 2 N HCl. The product was extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with water, then brine, dried over Na2SO4, and evaporated, to give crude 2-amino-4,6-diisopropoxy-nicotinic acid as a light yellow solid. Yield: 1.48 g (98%, crude).

reactant | 2-amino-4,6-diisopropoxy-nicotinic acid methyl ester | 5.97 mmol, 1.6 g | COC(C1=C(N=C(C=C1OC(C)C)OC(C)C)N)=O | C13H20N2O4
reactant | lithium hydroxide | 17.91 mmol, 750 mg | [OH-].[Li+]
solvent | methanol | 9.0 mL | CO | CH4O
solvent | water | 1.0 mL | O | H2O
product | 2-amino-4,6-diisopropoxy-nicotinic acid | NC1=C(C(=O)O)C(=CC(=N1)OC(C)C)OC(C)C | C12H18N2O4
